US05102897
A solution of 2,6-bis(1,1-dimethylethyl)-4-[[5-(methylthio)-1,3,4-thiadiazol-2-yl]thio]phenol (0.25 g, 0.68 mmol) and sodium perborate (0.11 g, 0.71 mmol) in acetic acid (20 mL) is stirred at room temperature for 7 hours then stored at 0° C. overnight. The reaction mixture is diluted with ether and washed three times with water, then with a saturated solution of sodium bicarbonate and once with brine. Drying the organic phase over magnesium sulfate and evaporation gives a white solid which is chromatographed on silica gel eluting with a gradient of ethyl acetate:hexane (1:9, 2:8, 3:7, then 1:1) yielding 0.16 g (61%) of 2,6-bis(1,1-dimethylethyl)-4-[[5-(methylsulfinyl)-1,3,4-thiadiazol-2-yl]thio]-phenol; mp 162.0°-163.5° C.

reactant | 2,6-bis(1,1-dimethylethyl)-4-[[5-(methylthio)-1,3,4-thiadiazol-2-yl]thio]phenol | 0.68 mmol, 0.25 g | CC(C)(C)C1=C(C(=CC(=C1)SC=1SC(=NN1)SC)C(C)(C)C)O | C17H24N2OS3
reactant | sodium perborate | 0.71 mmol, 0.11 g | B(=O)O[O-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 2,6-bis(1,1-dimethylethyl)-4-[[5-(methylsulfinyl)-1,3,4-thiadiazol-2-yl]thio]-phenol | 0.16 g, 61% | CC(C)(C)C1=C(C(=CC(=C1)SC=1SC(=NN1)S(=O)C)C(C)(C)C)O | C17H24N2O2S3
